US09303032B2
Description 6: 3-(Benzhydrylidene-amino)-1-methyl-3-prop-2-ynyl-pyrrolidin-2-one (D6)
Potassium tert-butoxide 1.7M in THF (602.08 mL, 1023.5 mmol) was added dropwise over a period of 2.5 h to a stirred solution of 3-(benzhydrylidene-amino)-1-methyl-pyrrolidin-2-one (259 g, 930.48 mmol) (which may be prepared as described in Description 5) and 80% solution of propargyl bromide in toluene (124.37 mL, 1116.6 mmol) in 3A-molecular-sieve-dried reagent grade THF (1900 mL) at −65° C. under nitrogen, in a 5 L flask equipped with an overhead stirrer. After the addition was complete, the mixture was stirred at −65° C. for a further 1 h. The cooling bath was removed and a saturated solution of NaHCO3 (140 ml) was added over 1 minute (at −60° C.). After a further 5 mins more sat NaHCO3 solution (1.4 L) was added followed by Et2O (1.4 L). The mixture was stirred for 1 h then transferred to a separating funnel and water (1.4 L) was added to dissolve all solids. The layers were separated and the aqueous further extracted with Et2O (2×1 L). The combined organic extracts were re-washed with sat. brine (700 ml), diluted with water (700 ml). The organic layer was dried (MgSO4) and evaporated to a volume of approx. 500-600 ml whereupon crystallization started to occur. To this stirred mixture was then added iso-hexane (1.6 L). After standing for 15 mins the cream solid was filtered under suction and washed with iso-hexane (500 ml) and dried at 50° C. under vacuum for 5 h. This afforded 3-(benzhydrylidene-amino)-1-methyl-3-prop-2-ynyl-pyrrolidin-2-one (D6) (274 g, 93%). This was pure by NMR but contains some additional water;

reactant | Potassium tert-butoxide | 1.7M | CC(C)([O-])C.[K+]
reactant | 3-(benzhydrylidene-amino)-1-methyl-pyrrolidin-2-one | 930.48 mmol, 259 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1C(N(CC1)C)=O | C18H18N2O
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | toluene | 1116.6 mmol, 124.37 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1900 mL | C1CCOC1 | C4H8O
solvent | THF | 1023.5 mmol, 602.08 mL | C1CCOC1 | C4H8O
product | 3-(Benzhydrylidene-amino)-1-methyl-3-prop-2-ynyl-pyrrolidin-2-one | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1(C(N(CC1)C)=O)CC#C | C21H20N2O
